US07981903B2
A solution of 8-bromo-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (120 mg, 0.167 mmol), and potassium carbonate (69.4 mg, 0.502 mmol) in methanol (25 ml) was stirred at room temperature. The reaction was filtered to remove the base, organic layer was filtered through a cotton plug, concentrated by rotary evaporation, adsorbed onto silica gel, and purified by silica gel chromatography (DCM to 10% MeOH/DCM) to give methyl 2-bromo-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoate (0.1 g, 80%). ESIMS (M+H)+=748.

reactant | 8-bromo-5-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.167 mmol, 120 mg | BrC1=C2C(N3C(=NC2=CC=C1)C1=C(N=C3NC3=C(C=C(C=C3)N3CCN(CC3)C(C)C)OC)N(C=C1)S(=O)(=O)C1=CC=C(C=C1)C)=O | C34H34BrN7O4S
reactant | potassium carbonate | 0.502 mmol, 69.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 25 ml | CO | CH4O
product | methyl 2-bromo-6-({2-{[4-[4-(1-methylethyl)-1-piperazinyl]-2-(methyloxy)phenyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)benzoate | 0.1 g, 80% | BrC1=C(C(=O)OC)C(=CC=C1)NC=1C2=C(N=C(N1)NC1=C(C=C(C=C1)N1CCN(CC1)C(C)C)OC)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C35H38BrN7O5S
